US05292740
25 g of guaiacol and 37 g of dimethyl chloromalonate were added dropwise in succession to a sodium methylate solution from 150 ml of methanol and 4.6 g of sodium. The suspension was stirred at 45° C. for 1 hour with the exclusion of moisture, thereafter the methanol was distilled off. The residue was taken up in 200 ml of toluene and washed with water, 1% sodium hydroxide solution and water until the organic phase was colorless. After drying and evaporating the solvent, the residue was distilled. There were obtained 39.5 g of dimethyl (o-methoxyphenoxy)malonate. B.p. 128° C./7 Pa.

reactant | guaiacol | 25 g | C=1(C(O)=CC=CC1)OC | C7H8O2
reactant | dimethyl chloromalonate | 37 g | ClC(C(=O)OC)C(=O)OC | C5H7ClO4
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 4.6 g | [Na] | Na
solvent | methanol | 150 ml | CO | CH4O
product | dimethyl (o-methoxyphenoxy)malonate | 39.5 g | COC1=C(OC(C(=O)OC)C(=O)OC)C=CC=C1 | C12H14O6
